US04096257
Preparation of 5-phenyl-imidazo[1,2-d]-as-triazin-8(7H)-one
A 2.6 gm. portion of 2-imidazolecarboxylic acid hydrazide is added to 200 ml. of ethanol. To this is added 20 ml. of trimethylorthobenzoate. The mixture is refluxed for 31 hours, then the solvents are evaporated giving a white solid which is washed twice with diethyl ether giving 3.0 gm. of white solid. This solid is combined with 50 ml. of diphenyl ether and heated with stirring in an oil bath at 265°-275° C. for 10 minutes. The mixture is cooled, petroleum ether is added and the mixture is filtered. The solid is washed twice with hot petroleum ether, giving 1.4 gm. of the desired product as a light tan solid, m.p. 292°-295° C.

reactant | 2-imidazolecarboxylic acid hydrazide | N1C(=NC=C1)C(=O)NN | C4H6N4O
reactant | trimethylorthobenzoate | COC(C1=CC=CC=C1)(OC)OC | C10H14O3
solvent | ethanol | C(C)O | C2H6O
product | 5-phenyl-imidazo[1,2-d]-as-triazin-8(7H)-one | C1(=CC=CC=C1)C1=NNC(C=2N1C=CN2)=O | C11H8N4O
